US08133909B2
(S)—N-(3,4-Dimethyl-phenyl)-2-(4-fluoro-phenyl)-2-hydroxy-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide
A solution of N-(3,4-dimethyl-phenyl)-2-(4-fluoro-phenyl)-2-oxo-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide (515 mg, 1.16 mmol) was dissolved in MeOH (8 mL), cooled to 0° C. and treated with NaBH4 (88 mg, 2.33 mmol) and stirred for 12 h at ambient temperature. The reaction mixture was quenched with aqueous K2CO3 (2 M, 1 mL), concentrated, then redissolved in EtOAc (15 mL) and washed with aqueous K2CO3 (2 M, 3×15 mL). The combined aqueous layers were extracted with EtOAc (3×15 mL) and the combined organic layers dried over sodium sulfate. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate=95:5 to 60:40) afforded the racemic compound (501 mg, 97%) as a lightyellow oil. Separation by chromatography on a chiral column provided the title compound as a colourless oil MS m/e: 447.2 [M+H]+ which crystallized upon standing.

reactant | N-(3,4-dimethyl-phenyl)-2-(4-fluoro-phenyl)-2-oxo-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide | 1.16 mmol, 515 mg | CC=1C=C(C=CC1C)N(C(C(=O)C1=CC=C(C=C1)F)=O)CCC=1C=NC(=CC1)C(F)(F)F | C24H20F4N2O2
reactant | NaBH4 | 2.33 mmol, 88 mg | [BH4-].[Na+]
solvent | MeOH | 8 mL | CO | CH4O
product | (S)—N-(3,4-Dimethyl-phenyl)-2-(4-fluoro-phenyl)-2-hydroxy-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide | 501 mg, 97% | CC=1C=C(C=CC1C)N(C([C@@H](O)C1=CC=C(C=C1)F)=O)CCC=1C=NC(=CC1)C(F)(F)F | C24H22F4N2O2
